### PR TITLE
Adding perm-related lemmas for zipped sequences.

### PR DESCRIPTION
**Pull request by jouvelot**
##### Motivation for this change

I found these lemmas useful and suggest them to be added to `seq.v`, if deemed general enough.

##### Things done/to do

- [x] added corresponding entries in `CHANGELOG_UNRELEASED.md`

- [ ] added corresponding documentation in the headers
- [ ] tried to abide by the [contribution guide](https://github.com/math-comp/math-comp/blob/master/CONTRIBUTING.md)

##### Compatibility with MathComp 2.0

- [ ] I added the label `TODO: HB port` to make sure someone ports this PR to
      the `hierarchy-builder` branch **or** I already opened an issue or PR (please cross reference).

##### Automatic note to reviewers

Read [this Checklist](https://github.com/math-comp/math-comp/wiki/Checklist-for-creating-and-review-PRs) and put a milestone if possible.

### CODE REVIEW

File: mathcomp/ssreflect/seq.v [hunk 1]
```diff
@@ -3205,8 +3205,51 @@ Lemma zip_map I f g (s : seq I) :
   zip (map f s) (map g s) = [seq (f i, g i) | i <- s].
 Proof. by elim: s => //= i s ->. Qed.
 
+Lemma unzip1_seq x y s t l :
+  size s = size t -> unzip1 [seq nth (x, y) (zip s t) i | i <- l] = [seq nth x s i | i <- l].
```
Comment (CohenCyril) [inline mathcomp/ssreflect/seq.v:3209]: I'm not sure about the name ... `unzip1_seq` sounds a bit too generic.
Maybe `unzip1_map_nth_zip` ?
(also please no line longer than 80 char)

File: mathcomp/ssreflect/seq.v [hunk 2]
```diff
@@ -3205,8 +3205,51 @@ Lemma zip_map I f g (s : seq I) :
...
+Proof. by move=> st; elim: l => [//=|n l IH /=]; rewrite nth_zip /= ?IH ?st. Qed.
+
+Lemma unzip2_seq x y s t l :
```
Comment (CohenCyril) [inline mathcomp/ssreflect/seq.v:3212]: same remark about the naming

File: mathcomp/ssreflect/seq.v [hunk 3]
```diff
@@ -3205,8 +3205,51 @@ Lemma zip_map I f g (s : seq I) :
...
+apply/(perm_iotaP (y, x)); exists l => //; first by rewrite size_zip -eq2  minnn.   
+have -> : s1 = [seq nth x s2 i | i <- l].    
+  by rewrite -(@unzip1_seq _ _ _ y _ t2) -?eqz ?unzip1_zip // eq1.
+have -> : t1 = [seq nth y t2 i | i <- l].
+  by rewrite -(@unzip2_seq _ _ x _ s2) -?eqz ?unzip2_zip // eq1.  
+rewrite zip_map.
+apply: (@eq_from_nth _ (y, x)) => [|j ltjs]; first by rewrite !size_map. 
+rewrite size_map in ltjs.
+by rewrite ?(nth_map 0) ?nth_zip.
+Qed.
```
Comment (CohenCyril) [inline mathcomp/ssreflect/seq.v:3233]: Hypotheses are too strong and the proof can be shortened.
```suggestion
Lemma perm_zip_sym (S T : eqType) (s1 s2 : seq S) (t1 t2 : seq T) : 
  perm_eq (zip s1 t1) (zip s2 t2) -> perm_eq (zip t1 s1) (zip t2 s2).
Proof.
have swap t s : zip t s = map (fun u => (u.2, u.1)) (zip s t).
  by elim: s t => [|x s +] [|y t]//= => ->.
by rewrite [zip t1 s1]swap [zip t2 s2]swap; apply: perm_map.
Qed.

```

File: mathcomp/ssreflect/seq.v [hunk 4]
```diff
@@ -3205,8 +3205,51 @@ Lemma zip_map I f g (s : seq I) :
...
+  perm_eq (zip s1 t1) (zip s2 t2) -> perm_eq s1 s2.
+Proof. 
+move=> eq1 eq2 /(perm_iotaP (x, y)) [l p] eqz.
+rewrite size_zip -eq2 minnn in p.
+apply/(perm_iotaP x); exists l => //.
+rewrite -(@unzip1_zip _ _ s1 t1) ?eq12 //= ?eqz ?eq1 //= /unzip1 -?map_comp.
+apply: (@eq_from_nth _ x) => [|j ltjs]; first by rewrite !size_map.
+rewrite size_map in ltjs.
+by rewrite !(nth_map 0) /= ?nth_zip.
+Qed.
```
Comment (CohenCyril) [inline mathcomp/ssreflect/seq.v:3246]: Hypotheses can be weakened (see wlog)
```suggestion
Lemma perm_zip1 (S T : eqType) (s1 s2 : seq S) (t1 t2 : seq T) : 
  size s1 = size t1 -> size s2 = size t2 -> 
  perm_eq (zip s1 t1) (zip s2 t2) -> perm_eq s1 s2.
Proof.
wlog [x y] : s1 s2 t1 t2 / (S * T)%type => [hwlog|].
  case: s2 t2 => [|x s2] [|y t2] //; last exact: hwlog.
  by case: s1 t1 => [|u s1] [|v t1]//= _ _ /perm_nilP.
move=> eq1 eq2 /(perm_iotaP (x, y))[ns nsP /(congr1 (@unzip1 _ _))].
rewrite unzip1_zip ?unzip1_seq -?eq1// => ->.
by apply/(perm_iotaP x); exists ns; rewrite // size_zip -eq2 minnn in nsP.
Qed.
```

**Review by CohenCyril — CHANGES_REQUESTED** [review]
Thank you for your contribution. Here is my review.

**Comment by jouvelot** [comment]
Thanks a lot, @CohenCyril. I'll look at this asap.

File: mathcomp/ssreflect/seq.v (hunk 4 above)
Comment (jouvelot) [reply mathcomp/ssreflect/seq.v]: Thanks @CohenCyril for the smarter proof and lemma statement. Something I don't understand in this proof though is how `x` and `y` can be defined so directly. Are all `eqType`s inhabited by default? Where is this visible in the library?

File: mathcomp/ssreflect/seq.v [hunk 5]
```diff
@@ -3205,8 +3205,43 @@ Lemma zip_map I f g (s : seq I) :
...
+move=> eq1 eq2 /(perm_iotaP (x, y))[ns nsP /(congr1 (@unzip1 _ _))].
+rewrite unzip1_zip ?unzip1_map_nth_zip -?eq1// => ->.
+by apply/(perm_iotaP x); exists ns; rewrite // size_zip -eq2 minnn in nsP.
+Qed.
+
+Lemma perm_zip2 (S T : eqType) (x : S) (y : T) (s1 s2 : seq S) (t1 t2 : seq T) :
+  size s1 = size t1 -> size s2 = size t2 ->
+  perm_eq (zip s1 t1) (zip s2 t2) -> perm_eq t1 t2.
+Proof. by move=> ? ? ?; rewrite (@perm_zip1 _ _ _ _ s1 s2) 1?perm_zip_sym. Qed.
+
```
Comment (CohenCyril) [inline mathcomp/ssreflect/seq.v:3244]: This lemma still has two unused arguments: `x`and `y`. Also the use of `perm_zip1` with `_` suggests to use maximal implicits for the two types and put in front the arguments that cannot be inferred from the goal. In the case of  `perm_zip1` it is `t1` and `t2` and for  `perm_zip2` it is `s1` and `s2`.

Comment (jouvelot) [reply mathcomp/ssreflect/seq.v]: I'm not very familiar with maximal implicits, so I hope my corrections are the ones you had in mind.

**Review by CohenCyril — APPROVED** [review]
LGTM

**Comment by proux01** [comment]
Rebased, CI is as green as expected (because of https://github.com/math-comp/hierarchy-builder/pull/372 ), merging.
